US05624943
175 g of manganese dioxide is added to a solution of 29 g of 6-hydroxymethyl-2-iodo-3-methoxypyridine in 600 ml of toluene, and the suspension is heated with stirring and refluxed for three hours on a water separator. The reaction mixture is filtered, the filter residue is washed with dichloromethane, the filtrate is dried on sodium sulfate and concentrated by evaporation. The crude product is chromatographed on silica gel with hexane/0-25% ethyl acetate. 12.9 g of 2-iodo-3-methoxypyridine-6-aldehyde of melting point 118°-121° C. is obtained.

reactant | 6-hydroxymethyl-2-iodo-3-methoxypyridine | 29 g | OCC1=CC=C(C(=N1)I)OC | C7H8INO2
reactant | water | O | H2O
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 175 g | [O-2].[O-2].[Mn+4]
product | 2-iodo-3-methoxypyridine-6-aldehyde | 12.9 g | IC1=NC(=CC=C1OC)C=O | C7H6INO2
